US05250679
A magnetically stirred solution of 0.848 gram of N-(2-amino-5-iodobenzoyl)-β-alanine ethyl ester (2.0 mmol), 0.35 mL 2,6-lutidine (3.0 mmol), 0.19 mL methyl iodide (3.0 mmol), and 15 mL dimethylformamide was heated to 50° C. for 15 hours. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The resulting residue was dissolved in 75 mL ethyl acetate and washed 1×50 mL 10% citric acid, 1×50 mL sat. sodium bicarbonate, 1×50 mL brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was further purified by column chromatography, using silica gel, eluting with a solvent gradient of 35/65 ethyl acetate/hexane to 65/35 ethyl acetate/hexane (TLC, SiO2, 1:1 EtOAc/hexane, Rf =0.84, υν positive) to yield 305 mgs (35%) of N-(2-methylamino-5-iodobenzoyl)-β-alanine benzyl ester. 1H NMR (CDCl3, dTMS) 7.56 (2H, m, Ar--H o,p-CON), 7.43 (1H, bq, 3JHH =5 Hz, NHMe), 7.38-7.32 (5H, s, ArH Ph), 6.62 (1H, bt, 3JHH =6 Hz, CONH), 6.42 (1H, d, 3JHH =9 Hz, Ar--H m-CON), 5.16 (2 H, s, OCH2), 3.64 (2H, q, 3JHH =6 Hz, NCH2), 2.81 (3H, d, 3JHH =5 Hz, NCH3), 2.64 (2H, t, 3JHH =6 Hz, CH2CO2). 13C NMR (CDCl3, δTMS) 172.4, 168.4, 148.8, 141.0, 135.5, 128.7, 128.4, 128.3, 117.3, 113.4, 74.1, 66.7, 35.2, 34.0, 29.6.

reactant | N-(2-amino-5-iodobenzoyl)-β-alanine ethyl ester | 2.0 mmol, 0.848 gram | C(C)OC(CCNC(C1=C(C=CC(=C1)I)N)=O)=O | C12H15IN2O3
reactant | 2,6-lutidine | 3.0 mmol, 0.35 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | methyl iodide | 3.0 mmol, 0.19 mL | CI | CH3I
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-(2-methylamino-5-iodobenzoyl)-β-alanine benzyl ester | 305 mgs, 35% | C(C1=CC=CC=C1)OC(CCNC(C1=C(C=CC(=C1)I)NC)=O)=O | C18H19IN2O3
